US06583135B2
A solution of (10-bromo-3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetic acid (0.152 g, 0.359 mmol) and triethylamine (0.052 mL, 0.038 g, 0.372 mmol, 1.04 equiv.) in THF (2 mL) was cooled to 0° C. under N2. Isobutyl chloroformate (0.048 mL, 0.051 g, 0.372 mmol, 1.04 equiv.) was added and the reaction mixture was stirred for 2.3 h. o-Phenylenediamine (0.0406 g, 0.375 mmol, 1.04 equiv.) and acetic acid (0.24 mL, 0.26 g, 4.25 mmol, 11.8 equiv.) were added, and the reaction mixture was heated to 50° C. The temperature of the reaction mixture gradually was increased to 64° C. over 3 h. After 19 h, the reaction mixture was cooled to rt. The reaction mixture was taken up in EtOAc, and the resulting solution was washed with water, saturated aq. NaHCO3, and brine. The organic layer was dried over MgSO4, filtered and concentrated. The crude product (0.1865 g) was chromatographed (SiO2 22 g, eluted with 5:1 toluene:acetone) to give tert-butyl 6-(1H-benzimidazol-2-ylmethyl)-10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.105 g) in 59% yield. 1H NMR (300 MHz, CDCl3) δ 1.12, 3.20, 3.54, 3.68-3.74, 5.54, 5.58, 6.88, 7.20, 7.23-7.30.

reactant | (10-bromo-3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetic acid | 0.359 mmol, 0.152 g | BrC=1C=2C3=C(N(C2C=CC1)CC(=O)O)CCN(CC3)C(=O)OC(C)(C)C | C19H23BrN2O4
reactant | triethylamine | 0.372 mmol, 0.052 mL, 0.038 g, 1.04 equiv. | C(C)N(CC)CC | C6H15N
reactant | Isobutyl chloroformate | 0.372 mmol, 0.048 mL, 0.051 g, 1.04 equiv. | ClC(=O)OCC(C)C | C5H9ClO2
reactant | o-Phenylenediamine | 0.375 mmol, 0.0406 g, 1.04 equiv. | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acetic acid | 4.25 mmol, 0.24 mL, 0.26 g, 11.8 equiv. | C(C)(=O)O | C2H4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 6-(1H-benzimidazol-2-ylmethyl)-10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.105 g, 59% yield | N1C(=NC2=C1C=CC=C2)CN2C1=C(C=3C(=CC=CC23)Br)CCN(CC1)C(=O)OC(C)(C)C | C25H27BrN4O2
